US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and quinoline-8-carbonyl chloride were combined to provide N8-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-8-quinolinecarboxamide as a tan powder, m.p. 91.0-93.0° C. 1H NMR (300 MHz, DMSO-d6) δ10.80 (t, J=5.5 Hz, 1H), 8.79 (dd, J=4.3, 1.8 Hz, 1H), 8.55-8.49 (m, 2H), 8.24 (s, 1H), 8.17 (dd, J=8.1, 1.5 Hz, 1H), 8.06 (d, J=7.2 Hz, 1H), 7.73 (t, J=7.8 Hz, 1H), 7.63-7.59 (m, 2H), 7.40 (dt J=7.1, 1.2 Hz, 1H), 7.14 (dt, J=7.1, 1.2 Hz, 1H), 6.57 (broad s, 2H), 4.68 (t, J=7.0 Hz, 2H), 3.51 (m, 2H), 2.02 (m, 2H), 1.69 (m, 2H); MS (EI) m/e 410.1858 (410.1855 calcd for C24H22N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | quinoline-8-carbonyl chloride | N1=CC=CC2=CC=CC(=C12)C(=O)Cl | C10H6ClNO
product | N8-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-8-quinolinecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(=O)C=2C=CC=C1C=CC=NC21 | C24H22N6O
